*****************************************************************
* NXP PSMN1R0-30YLD
*
* Polarity N-Channel
* Ratings 30V/1.020000E-003OHMS/100A
*
* Date Created Thu May 22 05:39:50 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R0-30YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000355829444007088 TC=0.00940992154024459,1.39750325870371E-06
RBD 9 4 0.000215048843902444 TC=0.00940992154024459,1.39750325870371E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 240000000
CGS 2 6 4.49587985293023e-09
RG 1 2 1.21504

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
*+ -12	4718.33
*+ -10	4714.49
*+ -8	4708.57
*+ -6	4697.72
*+ -5	4686.93
*+ -4	4663.03
*+ -3	4553.16
+ -2	3395.08
+ -1	2068.06
+ -0.5	1606.2
+ -0.2	1436.39
+ -0.1	1432.57
+ 0	1347.1472
+ 0.1	1221.694
+ 0.2	1220.058
+ 0.5	1089.0724
+ 1	941.68928
+ 2	768.8998
+ 3	662.58188
+ 4	579.58684
+ 5	510.51992
+ 6	458.96348
+ 8	398.93236
+ 10	369.94272
+ 12	353.79504
+ 15	339.7846



.MODEL MINT NMOS(Vto=2.3 Kp=1.1e+003 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=3.02562440082232e-12
+ N=1 M=0.48 VJ=0.81 Fc=0.5 Cjo=8.3345076e-09 Tt=2.648e-08)

.ENDS

